* 5th Order Elliptic Lowpass
* COD, TOR, JD
* ************************ *
* Reference:
* Circuit Simulation and 
*       Algorithms
*       - Jan Ogrodski
* cut-off f 1kHz

V1 0 1 type=vdc vdc=0 type=vac vac=1
R1 1 2 10k
C1 2 0 29.7n
L1 2 3 1.43
C2 2 3 5.28n
C3 3 0 34.9n
L2 3 4 0.987
C4 3 4 15.5n
C5 4 0 23.3n
R2 4 0 10k
.op
.AC LOG 10 100 10k
.END
